US07368578B2
To a solution of ethyl 1-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-thiazol-2-yl}piperidine-4-carboxylate (1.56 g) in tetrahydrofuran (30 mL)-ethanol (5 mL) was gradually added sodium borohydride (70 mg) at 0° C. After stirring at 0° C. for 1 hr, water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give ethyl 1-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-thiazol-2-yl}piperidine-4-carboxylate as colorless crystals (1.48 g, yield 95%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 84-85° C.

reactant | ethyl 1-{4-[(4-formyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-thiazol-2-yl}piperidine-4-carboxylate | 1.56 g | C(=O)C1=CC(=C(OCC=2N=C(SC2C)N2CCC(CC2)C(=O)OCC)C=C1)OC | C21H26N2O5S
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | sodium borohydride | 70 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | ethyl 1-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-thiazol-2-yl}piperidine-4-carboxylate | 1.48 g, yield 95% | OCC1=CC(=C(OCC=2N=C(SC2C)N2CCC(CC2)C(=O)OCC)C=C1)OC | C21H28N2O5S
